US07985753B2
5-Pyridin-2-yl-1,2,3,4-tetrahydro-isoquinoline
In close analogy to the procedure described above, 5-Bromo-isoquinoline is reacted with 2-trimethylstannyl-pyridine and sodium borohydride to provide the title compound.

reactant | 5-Bromo-isoquinoline | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
reactant | 2-trimethylstannyl-pyridine | C[Sn](C1=NC=CC=C1)(C)C
reactant | sodium borohydride | [BH4-].[Na+]
product | 5-Pyridin-2-yl-1,2,3,4-tetrahydro-isoquinoline | N1=C(C=CC=C1)C1=C2CCNCC2=CC=C1 | C14H14N2
